US08710100B2
Sodium ethoxide (1.8 g, 26.4 mmol) was added portionwise at 0° C. to a stirred solution of 2-hydroxy-3-(3-nitrophenyl)acrylic acid (5.25 g, 25.0 mmol) in methanol (131 ml) to form a clear, pale yellow solution. Sodium borohydride (1 g, 26.4 mmol) was then carefully added in two portions and the mixture stirred at 5-10° C. for 30 mins. A small amount of water was then added to quench the reaction and destroy any excess NaBH4. The methanol was removed in vacuo to give a solid residue, which was ground with a 5:2 mixture of ethyl acetate and heptane (21 ml) then further ground with 3% aqueous methanol. The resulting solid was collected by filtration and dried in vacuo to give 2-hydroxy-3-(3-nitrophenyl)propionic acid (3.0 g, 57%).

reactant | Sodium ethoxide | 26.4 mmol, 1.8 g | [O-]CC.[Na+]
reactant | 2-hydroxy-3-(3-nitrophenyl)acrylic acid | 25.0 mmol, 5.25 g | OC(C(=O)O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C9H7NO5
reactant | Sodium borohydride | 26.4 mmol, 1 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 131 ml | CO | CH4O
solvent | heptane | 21 ml | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-3-(3-nitrophenyl)propionic acid | 3.0 g, 57% | OC(C(=O)O)CC1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO5
